US07750040B2
3-(4-Aminomethyl-3-methoxy-phenoxy)-propan-1-ol is prepared starting from 4-aminomethyl-3-methoxy-phenol and 1-bromo-propanol in analogy to the procedures given in Example 18, steps a to c. LC-MS: tR=0.67 min, [M+1]+=212.16.

reactant | 4-aminomethyl-3-methoxy-phenol | NCC1=C(C=C(C=C1)O)OC | C8H11NO2
reactant | 1-bromo-propanol | BrC(CC)O | C3H7BrO
product | 3-(4-Aminomethyl-3-methoxy-phenoxy)-propan-1-ol | NCC1=C(C=C(OCCCO)C=C1)OC | C11H17NO3
